US08372807B2
To a solution of (trimethylsilyl)diazomethane in hexane (2M, 1.74 mL, 3.5 mmol) in tetrahydrofuran (10 mL) at −78° C. was added dropwise n-BuLi and the mixture was stirred at −78° C. for 1 hour. Isothiocyanatobenzene (500 mg, 2.9 mmol) in THF (4 mL) was added and the mixture was stirred at −78° C. for 1 hour. Ethyl bromoacetate (484 mg, 2.9 mmol) was then added and the mixture was stirred at −78° C. for 30 min. and then at 0° C. for additional 30 min. Iced water was added to the reaction and the mixture was extracted with ether. The organic layer was dried over sodium sulfate and concentrated under reduced pressure to give ethyl 2-(1-(naphthalen-1-yl)-4-(trimethylsilyl)-1H-1,2,3-triazol-5-ylthio)acetate as a yellow oil, that was used in the next step without further purification (1 g, 89%).

reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 3.5 mmol, 2M, 1.74 mL | CCCCCC | C6H14
reactant | n-BuLi | [Li]CCCC
reactant | Isothiocyanatobenzene | 2.9 mmol, 500 mg | N(=C=S)C1=CC=CC=C1 | C7H5NS
reactant | Ethyl bromoacetate | 2.9 mmol, 484 mg | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl 2-(1-(naphthalen-1-yl)-4-(trimethylsilyl)-1H-1,2,3-triazol-5-ylthio)acetate | C1(=CC=CC2=CC=CC=C12)N1N=NC(=C1SCC(=O)OCC)[Si](C)(C)C | C19H23N3O2SSi
